US07932279B2
2′,4′-Bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid methyl ester (1 mmol) was dissolved in mixture of THF (5 ml) and water (5 ml). LiOH (72 mg, 3 mmol) was added, and the resulting mixture was stirred at 80° C. overnight. After the reaction was complete, the reaction was cooled to r.t., acidified with 1M HCl to pH=1. After extraction with ether (25 ml×3), the combined organics were washed with water (25 ml) and saturated brine (25 ml) and dried over Na2SO4. After filtration and concentration, 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid was obtained as white solid in quantitative yield. M.p.: 59-63° C.; 400 MHz 1H NMR (DMSO-d6) δ: 12.98 (br s, 1H), 8.18 (t, J=1.6 Hz, 1H), 7.89 (d, J=7.6 Hz, 1H), 7.78 (d, J=7.6 Hz, 1H), 7.54-7.28 (m, 13H), 5.32 (s, 2H), 5.31 (s, 2H), 4.27 (t, J=7.2 Hz, 2H), 3.18 (t, J=6.0 Hz, 2H), 3.06 (s, 3H), 1.93 (pent, J=6.8 Hz, 2H); LCMS: 551 [M+H].

reactant | 2′,4′-Bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid methyl ester | 1 mmol | COC(=O)C=1C=C(C=CC1)C1=C(C=C(C(=C1)C1=NN=NN1CCCOC)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C33H32N4O5
reactant | LiOH | 3 mmol, 72 mg | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid | quantitative yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)O | C32H30N4O5
